US06548511B1
3-Amino-4-chlorobenzotrifluoride (2.9 g, 12.7 mmol) was dissolved in DMF (30 ml), sodium hydride (60% in oil, 540 mg, 13.5 mmol) was added, followed by stirring at room temperature for 30 minutes. Then, 3-butyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone (3.0 g, 11.7 mmol) was added, followed by stirring for 4 hours. After completion of the reaction, the reaction solution was diluted with ether (20 ml), excess sodium hydride was neutralized with saturated ammonium chloride aqueous solution, and then the organic layer was separated and the resulting aqueous layer was extracted with ether (15 ml×2). The organic layers were combined, washed with saturated brine and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (hexane:ethyl acetate=10:1), 3-butyl-2-(3-chloro-5-trifluoromethylphenyl)amino-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 22] was obtained as colorless crystals.

reactant | 3-Amino-4-chlorobenzotrifluoride | 12.7 mmol, 2.9 g | NC=1C=C(C=CC1Cl)C(F)(F)F | C7H5ClF3N
reactant | 3-butyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone | 11.7 mmol, 3.0 g | C(CCC)N1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C | C10H13F3N2O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | sodium hydride | [H-].[Na+]
solvent | sodium hydride | 13.5 mmol, 540 mg | [H-].[Na+]
product | 3-butyl-2-(3-chloro-5-trifluoromethylphenyl)amino-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 5% | C(CCC)N1C(=NC(=CC1=O)C(F)(F)F)NC1=CC(=CC(=C1)C(F)(F)F)Cl | C16H14ClF6N3O
